US05021413
4-(3,4-dichlorophenylacetyl)-3-(pyrrolidin-1-ylmethyl)morpholine hydrochloride
The procedure described in Example 17 was repeated, but using 1.64 g of 3-(pyrrolidin-1-ylmethyl)morpholine, 3.72 ml of triethylamine and 1.54 g of 3,4-dichlorophenylacetyl chloride, to afford 0.72 g of the title compound, melting at 268° (dec.).

reactant | 3-(pyrrolidin-1-ylmethyl)morpholine | 1.64 g | N1(CCCC1)CC1NCCOC1 | C9H18N2O
reactant | 3,4-dichlorophenylacetyl chloride | 1.54 g | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
solvent | triethylamine | 3.72 ml | C(C)N(CC)CC | C6H15N
product | 4-(3,4-dichlorophenylacetyl)-3-(pyrrolidin-1-ylmethyl)morpholine hydrochloride | 0.72 g | Cl.ClC=1C=C(C=CC1Cl)CC(=O)N1C(COCC1)CN1CCCC1 | InChI=1S/C17H22Cl2N2O2.ClH/c18-15-4-3-13(9-16(15)19)10-17(22)21-7-8-23-12-14(21)11-20-5-1-2-6-20;/h3-4,9,14H,1-2,5-8,10-12H2;1H
